US06586630B1
(4) Synthesis of Fmoc-Phe-N-Me-Val-Tyr-NH2
To a solution of N-Me-Val-N-Me-Tyr-NH2 (185 mg, 0.603 mmol) in THF (6 ml), Fmoc-Phe-OH (304 mg, 0.784 mmol), CMPI (200 mg, 0.784 mmol) and TEA (0.168 ml, 1.21 mmol) were added under cooling with ice, followed by stirring at room temperature overnight. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=2:1) to give the titled compound (197 mg, 48%).

reactant | N-Me-Val-N-Me-Tyr-NH2 | 0.603 mmol, 185 mg | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC=C(C=C1)O)C(=O)N)C)C | C16H25N3O3
reactant | Fmoc-Phe-OH | 0.784 mmol, 304 mg | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H21NO4
reactant | water | O | H2O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | Fmoc-Phe-N-Me-Val-Tyr-NH2 | 197 mg, 48% | N([C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C39H42N4O6
